US07163937B2
To a solution of benzyl (S)-1-((1S,2R,4R)-4-amino-2-(1-hydroxypropyl)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (0.86 mmol) in MeOH (5 mL) was added acetone (0.6 mL), and the mixture was stirred for 10 minutes. Then sodium triacetoxyborohydride (544 mg, 2.58 mmol) was added, and the mixture was stirred for 4 h at rt. At the end of the stirring 37% aq. HCHO (0.4 mL) was added, and the mixture was stirred for 30 min at rt. Finally additional sodium triacetoxyborohydride (181 mg, 0.86 mmol) was added, and the mixture was stirred for 18 h at rt. The reaction was quenched by addition of sat. Na2CO3, and the product was extracted with EtOAc (3×). The combined extracts were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Purification of the residue via flash chromatography on silica gel with elution by 1:9:90 cNH4OH-MeOH—CH2Cl2 afforded the desired benzyl (S)-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (267 mg) as an oil.

reactant | benzyl (S)-1-((1S,2R,4R)-4-amino-2-(1-hydroxypropyl)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 0.86 mmol | N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)C(CC)O | C21H31N3O4
reactant | acetone | 0.6 mL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 2.58 mmol, 544 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCHO | 0.4 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.86 mmol, 181 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | benzyl (S)-1-((1S,2R,4R)-2-(1-hydroxypropyl)-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 267 mg | OC(CC)[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C25H39N3O4
